US07872000B2
C. Synthesis of 2-Hydrazinyl-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine
2-Chloro-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine was treated with ethanol (20 mL) and anhydrous hydrazine (5 mL) in a sealed tube at 150° C. bath temperature for 7 h. Initial experiments showed that the addition did not proceed in boiling ethanol at atmospheric pressure. HPLC showed that the addition was incomplete, so the reaction mixture was heated at 150° C. for a further 7 h. The solvent was removed under reduced pressure and the residue was purified by flash chromatography on silica gel, eluting with 95% dichloromethane and 5% of a 2M solution of ammonia in methanol; 1H NMR (CDCl3, 300 MHz) 7.19 (d, 1H), 6.51 (d, 1H), 5.85 (br s, 1H), 3.77 (br s, 2H), 2.79 (m, 2H), 2.63 (m, 2H), 1.73 (m, 2H), 1.62 (m, 2H), 1.36 (m, 4H) ppm; 13C NMR (CDCl3, 75 MHz) 156.87, 158.54, 138.81, 126.67, 104.58, 34.72, 32.67, 31.45, 30.85, 26.41, 26.37;

reactant | 2-Chloro-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine | ClC1=CC=C2C(=N1)CCCCCC2 | C11H14ClN
reactant | hydrazine | 5 mL | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-Hydrazinyl-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine | N(N)C1=CC=C2C(=N1)CCCCCC2 | C11H17N3
